US04076736
45 g of 1,5-dinitroanthraquinone (97 %) are heated to 200° C in 100 ml of water in a 0.7 liter steel autoclave. 300 ml of a cold, 25% strength aqueous ammonia solution, which contains 10% of NH4Cl, are pumped into this mixture over a period of 30 minutes. Thereafter, the temperature is kept constant for another 5 1/2 hours, the pressure thereby rising to 60 bar. The product is left to cool without outside help, the pressure released and the product filtered off with suction. The entire filtrate, 350 ml, is faintly yellow in color, E47010 cm = 6.0. After washing and drying there are obtained 34.8 g of 93.0 % pure 1,5-diaminoanthraquinone (92.7 % of theory). The product still contains 4.5 % (4.0 % of theory) of 1-amino-5-nitroanthraquinone.

reactant | 1,5-dinitroanthraquinone | 45 g | [N+](=O)([O-])C1=CC=CC=2C(C3=C(C=CC=C3C(C12)=O)[N+](=O)[O-])=O | C14H6N2O6
reactant | ammonia | N | H3N
reactant | NH4Cl | [NH4+].[Cl-]
solvent | water | 100 ml | O | H2O
product | 1,5-diaminoanthraquinone | 34.8 g | NC1=CC=CC=2C(C3=C(C=CC=C3C(C12)=O)N)=O | C14H10N2O2
